US09126939B2
Synthesis of (2R,3S)-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methylbenzoyl)-N-[4-(hydroxymethyl)-3-(trifluoromethyl)phenyl]piperidine-3-carboxamide
Step b) Methanesulfonyl chloride (378 mg, 3.3 mmol) was added to a solution of (2R,3S)-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methyl-benzoyl)piperidine-3-carboxylic acid prepared above (1.4 g, 3.3 mmol) and Hunig's base (586 μL, 3.3 mmol) in dry CH2Cl2 (25 mL) at 0° C. under a nitrogen atmosphere. The solution was stirred for an additional 15 minutes, then [4-amino-2-(trifluoromethyl)phenyl]methanol (631 mg, 3.3 mmol) and Hunig's base (586 μL, 3.3 mmol) were added sequentially. The reaction mixture was allowed to attain room temperature over a period of 30 minutes. When TLC and LCMS indicated completion of the reaction, excess solvent was removed under reduced pressure. The residue was purified by flash chromatography (SiO2, 0-20% ethyl acetate in dichloromethane) to get the desired compound (1.2 g) in 61% yield. 1H NMR (400 MHz, CDCl3) δ 9.50 (bs, 0.6H), 9.38 (bs, 0.4H), 7.75-7.70 (m, 1H), 7.50-7.33 (m, 3H), 7.24-7.19 (m, 2H), 7.06-6.90 (m, 2H), 6.67-6.55 (m, 3H), 4.77-4.76 (m, 2H), 3.78-3.66 (m, 1H), 3.32-3.00 (m, 3H), 2.44-1.45 (m, 17H). MS: (ES) m/z 598 (M+H+).

reactant | Methanesulfonyl chloride | 3.3 mmol, 378 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (2R,3S)-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methyl-benzoyl)piperidine-3-carboxylic acid | C1(CCCC1)NC1=CC=C(C=C1)[C@@H]1N(CCC[C@@H]1C(=O)O)C(C1=C(C=CC=C1C)F)=O | C25H29FN2O3
reactant | Hunig's base | 3.3 mmol, 586 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | [4-amino-2-(trifluoromethyl)phenyl]methanol | 3.3 mmol, 631 mg | NC1=CC(=C(C=C1)CO)C(F)(F)F | C8H8F3NO
reactant | Hunig's base | 3.3 mmol, 586 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S)-2-[4-(cyclopentylamino)phenyl]-1-(2-fluoro-6-methylbenzoyl)-N-[4-(hydroxymethyl)-3-(trifluoromethyl)phenyl]piperidine-3-carboxamide | 1.2 g, 61% yield | C1(CCCC1)NC1=CC=C(C=C1)[C@@H]1N(CCC[C@@H]1C(=O)NC1=CC(=C(C=C1)CO)C(F)(F)F)C(C1=C(C=CC=C1C)F)=O | C33H35F4N3O3
